US03962325
A mixture of 0.96 g (0.016 mol) of urea, 2.45 g (0.031 mol) of pyridine and 20 ml of glyme was stirred at 25°C while 3.8 g (0.0155 mol) of (3-methyl-2-butenyl)trifluoromethylmalonyl fluoride in 10 ml of glyme was added rapidly. The mixture was stirred overnight, heated for 10 minutes at 70°C, and evaporated to a viscous residue. Trituration of the residue with 20 ml of water gave 2.7 g (66%) of 5-(3-methyl-2-butenyl)-5-trifluoromethylbarbituric acid, mp 150°-153°C. A sample for analysis was recrystallized from water, mp 154°-155°C; ir (KBr): 3.04 and 3.18 (NH), 3.32, 3.39 and 3.44 (CH), 5.63 and 5.81 (C=O), and 8-8.5 μ (CF). Raman ir spectrum showed C=C at 5.95 μ; nmr ((CD3)2CO): 1H at ca. 9.0 (very broad (partly exchanged into acetone-d6), 2, NH), 5.03 (triplet, JHH = 7.7 Hz, 1, =CH), 3.07 (doublet, JHH = 7.7 Hz, 2, =CCH2), 1.69 and 1.67 ppm (singlets, 6, =CCH3); 19F at -69.0 ppm (singlet, CF3).

reactant | urea | 0.016 mol, 0.96 g | NC(=O)N | CH4N2O
reactant | pyridine | 0.031 mol, 2.45 g | N1=CC=CC=C1 | C5H5N
reactant | (3-methyl-2-butenyl)trifluoromethylmalonyl fluoride | 0.0155 mol, 3.8 g | CC(=CCC(C(=O)F)(C(=O)F)C(F)(F)F)C | C9H9F5O2
solvent | glyme | 10 ml | C(OC)COC | C4H10O2
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
product | 5-(3-methyl-2-butenyl)-5-trifluoromethylbarbituric acid | 2.7 g, 66% | CC(=CCC1(C(NC(NC1=O)=O)=O)C(F)(F)F)C | C10H11F3N2O3
